US04514416
In 450 ml of anhydrous methanol, was suspended 44.0 g of methyl 5-cyanosalicylate. While being cooled in ice and stirred, the suspension was saturated with dried gaseous hydrogen chloride. The suspension was further stirred for 2 days at room temperature, then the resulting solution was concentrated to about 200 ml at a low temperature under reduced pressure, and admixed with ethyl acetate to precipitate colorless crystals. The crystals were collected by filtration and dried to obtain 41.0 g of methyl 5-methoxyiminomethylsalicylate hydrochloride.

reactant | methyl 5-cyanosalicylate | 44.0 g | C(#N)C1=CC=C(C(C(=O)OC)=C1)O | C9H7NO3
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 450 ml | CO | CH4O
product | methyl 5-methoxyiminomethylsalicylate hydrochloride | 41.0 g | Cl.CON=CC1=CC=C(C(C(=O)OC)=C1)O | InChI=1S/C10H11NO4.ClH/c1-14-10(13)8-5-7(6-11-15-2)3-4-9(8)12;/h3-6,12H,1-2H3;1H
